US07858621B2
3-(2-Chloro-6-trifluoromethyl-pyridin-3-yl)-acrylic acid ethyl ester (103 mg, 0.368 mmol) was reacted with 3-pyridine boronic acid (2 eq) to give 3-(2-pyridin-3-yl-6-trifluoromethyl-pyridin-3-yl)-acrylic acid ethyl ester (60 mg, 50%).

reactant | 3-(2-Chloro-6-trifluoromethyl-pyridin-3-yl)-acrylic acid ethyl ester | 0.368 mmol, 103 mg | C(C)OC(C=CC=1C(=NC(=CC1)C(F)(F)F)Cl)=O | C11H9ClF3NO2
reactant | 3-pyridine boronic acid | 2 eq | N1=CC(=CC=C1)B(O)O | C5H6BNO2
product | 3-(2-pyridin-3-yl-6-trifluoromethyl-pyridin-3-yl)-acrylic acid ethyl ester | 60 mg, 50% | C(C)OC(C=CC=1C(=NC(=CC1)C(F)(F)F)C=1C=NC=CC1)=O | C16H13F3N2O2
